US09085540B2
A mixture of 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide (400 mg), 4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]aniline (374 mg), trifluoroacetic acid (209 μL), and N-methylpyrrolidone (2.8 mL) was heated at 150° C. for 16 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the precipitated solid was collected by filtration, and then dried. The obtained solid was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-200:10:1) to obtain 6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-5-(3-nitrophenoxy)pyrazine-2-carboxamide (383 mg) as a brown solid.

reactant | 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 400 mg | ClC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])CC)C(=O)N | C13H11ClN4O4
reactant | 4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]aniline | 374 mg | CN1CCN(CC1)C1CCN(CC1)C1=CC=C(N)C=C1 | C16H26N4
reactant | trifluoroacetic acid | 209 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 2.8 mL | CN1C(CCC1)=O | C5H9NO
product | 6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 383 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C29H36N8O4
